US07687510B2
Ethyl 4-(4-cyanophenyl)-6-methyl-2-oxo-1-[4-fluorophenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate
154 mg (1.0 mmol) N-[4-fluorophenyl]urea, 101 mg (0.77 mmol) 4-cyanobenzaldehyde, and 100 mg (0.77 mmol) ethyl 3-oxobutanoate are suspended in 2 ml of THF, and catalytic amounts of concentrated hydrochloric acid are added. The mixture is stirred at reflux for 18 hours. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate as eluent.

reactant | N-[4-fluorophenyl]urea | 1.0 mmol, 154 mg | FC1=CC=C(C=C1)NC(=O)N | C7H7FN2O
reactant | 4-cyanobenzaldehyde | 0.77 mmol, 101 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | ethyl 3-oxobutanoate | 0.77 mmol, 100 mg | O=C(CC(=O)OCC)C | C6H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | Ethyl 4-(4-cyanophenyl)-6-methyl-2-oxo-1-[4-fluorophenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCC)C)C1=CC=C(C=C1)F)=O | C21H18FN3O3
